US04337256
1-sec-Butylisoquinoline and N-hydroxymethyl dichloroacetamide were reacted in the same way as in step (b) of Example 18 to afford 1-sec-butyl-5-dichloroacetylaminomethylisoquinoline. The product was reacted successively in the same way as in steps (c), (d), (e) and (f) of Example 18 to obtain 1-sec-butylisoquinoline-5-acetonitrile. The product was treated in the same way as in Example 3 to afford 1-sec-butylisoquinoline-5-acetic acid as an oil.

reactant | 1-sec-Butylisoquinoline | C(C)(CC)C1=NC=CC2=CC=CC=C12 | C13H15N
reactant | N-hydroxymethyl dichloroacetamide | OCNC(C(Cl)Cl)=O | C3H5Cl2NO2
product | 1-sec-butyl-5-dichloroacetylaminomethylisoquinoline | C(C)(CC)C1=NC=CC2=C(C=CC=C12)CNC(C(Cl)Cl)=O | C16H18Cl2N2O
